US08580824B2
4-Allyloxy-N-hydroxy-benzamidine
The title compound is prepared in analogy to 4-allyloxy-N-hydroxy-3,5-dimethyl-benzamidine by allylating commercially available 4-hydroxy-benzonitrile followed by transforming the nitrile to the hydroxyamidine; LC-MS: tR=0.59 min, [M+1]+=193.58.

reactant | 4-allyloxy-N-hydroxy-3,5-dimethyl-benzamidine | C(C=C)OC1=C(C=C(C(=N)NO)C=C1C)C | C12H16N2O2
reactant | 4-hydroxy-benzonitrile | OC1=CC=C(C#N)C=C1 | C7H5NO
product | 4-Allyloxy-N-hydroxy-benzamidine | C(C=C)OC1=CC=C(C(=N)NO)C=C1 | C10H12N2O2
